Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / Topamax
 
Attending: ___.
 
Chief Complaint:
Shortness of Breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ with history of cerebral aneurysm, 
presenting with shortness of breath, found to have PE at OSH, 
and transferred here for further management. Earlier in the 
month, pt developed swelling in RLE with warmth and erythema 
consistent with cellulitis. LENIs at this time did not 
demontrate any DVT. She was treated with a course of cephalexin 
with improvement in erythema and pain. Additionally swelling 
went down substantially. However, 2 days ago, she begn 
developing worsening dyspnea on exertion. Promotes chest 
heaviness but no pain. Denies other URI symptoms. No prior hx of 
DVT.The patient denies any fever, chills, abdominal pain, bowel 
or bladder changes. Up to date on all age appropriate cancer 
screening. No recent weight loss.  

She was transferred from the ___ the patient has a known 
history of a brain aneurysm and the inpatient team at the 
___ was uncomfortable admitting her in case thrombolytics 
were used. She was placed on a heparin drip prior to transfer.  

In the ED, initial vital signs were: 98.4 82 150/70 18 95%  
Exam was reportedly unremarkable. A bedside echo showed no 
obvious signs of right heart strain. Patient was given nothing 
other than heparin gtt continued from ___ with lab notable 
for PTT 128. 
 
On Transfer Vitals were: 97.9 77 119/74 16 97% Nasal Cannula. 
Her breathing is greatly improved. She denies any chest pain.  

 
Past Medical History:
CEREBRAL ANEURYSM  
incidental finding ___ when she was hospialized at ___  
___ with severe HA, dizziness. Head CT also 
showed  
tiny lacunar infarcts in both basal ganglia.  
most recent ___ of ___ without contrast:  
stable 3 mm protuberance off the genu of the left internal  
carotid artery.  
Followed by Dr. ___ at ___.  
MRA q ___ years advised.  
BRCA1 GENE MUTATION  
CHRONIC OBSTRUCTIVE PULMONARY DISEASE  
SLEEP APNEA  
COLONIC POLYPS  
GASTROESOPHAGEAL REFLUX  
DEPRESSION  
PRE-DIABETES  
hx HEMATURIA  
LOW BACK PAIN VARICOSE VEINS R>L  
SCABIES  
HYPERLIPIDEMIA  
ROTATOR CUFF TEAR  
syncope vs TIA carotid US ___ no hemodynamically significant  

stenosis, ECHO nl.  
TAH/BSO  
CHOLECYSTECTOMY  

 
Social History:
___
Family History:
No family hx of DVT or PE, two sisters have atrial fibrillation  


 
Physical Exam:
ON ADMISSION:

VS: 98.9 105/54 65 18 96% on RA
GENERAL: NAD, obese  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no appreciable lower exam swelling althught R calf 
is tender to palpation
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, no focal deficits  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes
  

ON DISCHARGE:
VS: 98.5 124/61 77 18 98% on RA
GENERAL: NAD, obese  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no appreciable lower exam swelling althught R calf 
is tender to palpation
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, no focal deficits  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

ON DISCHARGE:
 
Pertinent Results:
___ 04:52PM   ___ PTT-128.0* ___
___ 04:52PM   PLT COUNT-150
___ 04:52PM   NEUTS-56.6 ___ MONOS-6.0 EOS-1.6 
BASOS-0.7
___ 04:52PM   GLUCOSE-130* UREA N-16 CREAT-0.9 SODIUM-140 
POTASSIUM-3.8 CHLORIDE-101 TOTAL CO2-27 ANION GAP-16
___ 04:52PM   ___ PTT-128.0* ___ history of cerebral aneurysm, recent treatment for RLE 
swelling and erythema with keflex x 5 days s/p negative RLE U/S 
now presenting with shortness of breath, found to have PE. 

# Pulmonary embolism-Treated with lovenox while hospitalized, 
transitioned to warfarin at discharge. Shortness of breath 
resolved while hospitalized without the need for supplemental 
oxygen.

# History of cerebral aneurysm-Per Dr. ___ who 
follows the patient's aneurysm) she should have another follow 
up MRI (last was ___ to assess the size of the aneurysm. 
Careful consideration was given to continuing the aspirin which 
she takes for her aneurysm and what the ___ anti-coagulant 
would be in light of the aneurysm to minimize her risk of 
bleeding. After discussion with Dr. ___ Dr. ___ 
decision was made to bridge to Coumadin with lovenox and hold 
the aspirin. Her MRA which was performed to assess the size of 
the aneurysm while the patient was admitted showed stable size 
of the aneurysm (4mm) with no change since ___.

#Hyperlipidemia: continued atorvastatin 20 
 
#Depression: continued home sertaline  

#GERD: continued home omeprazole  

#Asthma: no evidence of reactive airway disease on exam, 
continued albuterol inhaler as needed.  

Transitional Issues

# Anti-coagulation: Please assess optimal length of treatment 
for the patient.

# Cigarette smoking: The patient quit smoking on admission to 
the ER ___, please provide encouragement and resources 
regarding smoking cessation.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lovastatin 40 mg oral daily 
2. Sertraline 100 mg PO DAILY 
3. Aspirin 325 mg PO DAILY 
4. Omeprazole 20 mg PO BID 
5. albuterol sulfate 90 mcg/actuation inhalation q4hrs prn 
wheezing 
6. Vitamin D ___ UNIT PO DAILY 
7. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Medications:
1. Lovastatin 40 mg oral daily 
2. Multivitamins W/minerals 1 TAB PO DAILY 
3. Omeprazole 20 mg PO BID 
4. Sertraline 100 mg PO DAILY 
5. Vitamin D ___ UNIT PO DAILY 
6. Enoxaparin Sodium 110 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 120 mg/0.8 mL 110 mg Q12H SQ every twelve (12) 
hours Disp #*12 Syringe Refills:*0
7. Nicotine Patch 14 mg TD DAILY 
RX *nicotine [Nicoderm CQ] 14 mg/24 hour Apply one patch daily 
Disp #*30 Patch Refills:*0
8. Warfarin 5 mg PO DAILY16 
RX *warfarin [Coumadin] 5 mg 1 tablet(s) by mouth qdaily Disp 
#*30 Tablet Refills:*0
9. albuterol sulfate 90 mcg/actuation inhalation q4hrs prn 
wheezing 
10. Outpatient Lab Work
Please check INR on ___.

ICD-9: 415.1 

Please fax result to Dr. ___ at ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Pulmonary embolism

Secondary Diagnosis: Superficial thrombophlebitis

Primary Diagnosis: Pulmonary embolism

Secondary Diagnosis: Superficial thrombophlebitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at the ___ 
___. You were admitted because of a pulmonary 
embolism (blood clot in the lungs). We treated this blood clot 
by giving you anti-coagulation medicine which you will continue 
to take as an outpatient. You should continue taking this 
medication until your primary care doctor (___) says it 
is okay to stop (likely ___ months). We spoke with your 
neurosurgeon (Dr. ___ who follows your aneurysm and he 
recommended that you get a repeat MRI of your brain while you 
were admitted. This MRI showed that the anuerysm has not changed 
in size since ___, it is still 4mm in size. We wish you all the 
___ in your continued recovery.

Sincerely,

Your ___ Team
 
Followup Instructions:
___